US05185360
5,10-Dihydro-2-(N-ethylamino)indeno[1,2-b] indole
A solution of 5,10-dihydro-2-(N-acetylamino)indeno[1,2,b]-indole (0.70 g, 2.8 mM) in dry tetrahydrofuran (50 cm3), under a protective atmosphere of nitrogen, was treated with lithium aluminium hydride (0.40 g, 10.50 mM) during the course of 3 hours. The mixture was then heated to reflux for a further 3 hours, and eventually cooled. Excess reagent was destroyed by the addition of a saturated solution of sodium potassium tartrate (5 cm3) and the organic phase separated. The residual aqueous slurry was extracted with tetrahydrofuran (3×10 cm3) and the extracts and organic phase were combined, filtered through phase transfer paper, and evaporated. This gave the title compound as a pale yellow solid. M.p. 225° C. Yield; 0.47 g, 71%. 1H NMR (CDCl3) δ: 1.23 (3H, t, J=7.0 Hz), 3.09 (2H, q, J=7.0Hz), 3.59 (2H, s), 4.80 (1 H, br.s), 6.56 (1H, d, J=7.5Hz), 6.87 (1H, s), 7.01 (2H, br.m), 7.32-7.48 (3H, br.m), 10.47 (1H, br.s).

reactant | 5,10-dihydro-2-(N-acetylamino)indeno[1,2,b]-indole | 2.8 mM, 0.70 g | C(C)(=O)NC=1C=C2CC3=C(NC=4C=CC=CC34)C2=CC1 | C17H14N2O
reactant | lithium aluminium hydride | 10.50 mM, 0.40 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 50 cm3 | O1CCCC1 | C4H8O
product | 5,10-Dihydro-2-(N-ethylamino)indeno[1,2-b] indole | C(C)NC=1C=C2CC3=C(NC=4C=CC=CC34)C2=CC1 | C17H16N2
